Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Initial history and physical is as per Dr. ___
.
The patient is a ___ with hypertension and celiac disease who 
presented with dizziness and hypertensive urgency. She had 
vertigo when she woke up this am and upon standing she felt the 
world spinning. She did not have CP, SOB, numbness, tingling, 
weakness, F/C, N/V. Her symptoms subsided when she lay back down 
but recurred when she went to her ENT appointment. At her 
appointment her BP was measured to be 220/110 so she was sent to 
the ED. Recently her BP had been controlled per her PCP's office 
with readings no higher than 144/80. 
.
In the ED, ___ was initially negative. Besides vertigo, 
she reported no other symptoms. She was well-appearing with no 
nystagmus or JVD. Her neuro exam was benign. BP was 159/98 
without any intervention. Repeat ___ in the ED 
reproduced her symptoms of vertigo slightly. EKG showed new 
first degree AVB, new RBBB, TWI in V3 compared to ___. Initial 
CE were negative. CXR showed low lung volumes but no acute 
process.
.
Currently she reports vertigo when moving her head in certain 
ways; for example, rolling over to her back from lying on her 
left side reproduced the symptoms. She does not have any other 
focal symptoms including CP, SOB, visual changes, headaches, 
focal weakness.
.
ROS:
-Constitutional: [x]WNL []Weight loss []Fatigue/Malaise []Fever 
[]Chills/Rigors []Nightsweats []Anorexia
-Eyes: [x]WNL []Blurry Vision []Diplopia []Loss of Vision 
[]Photophobia
-ENT: [x]WNL []Dry Mouth []Oral ulcers []Bleeding gums/nose 
[]Tinnitus []Sinus pain []Sore throat
-Cardiac: [x]WNL []Chest pain []Palpitations ___ edema 
[]Orthopnea/PND []DOE
-Respiratory: [x]WNL []SOB []Pleuritic pain []Hemoptysis []Cough
-Gastrointestinal: [x]WNL []Nausea []Vomiting []Abdominal pain 
[]Abdominal Swelling []Diarrhea []Constipation []Hematemesis 
[]Hematochezia []Melena
-Heme/Lymph: [x]WNL []Bleeding []Bruising []Lymphadenopathy
-GU: [x]WNL []Incontinence/Retention []Dysuria []Hematuria 
[]Discharge []Menorrhagia
-Skin: [x]WNL []Rash []Pruritus
-Endocrine: [x]WNL []Change in skin/hair []Loss of energy 
[]Heat/Cold intolerance
-Musculoskeletal: [x]WNL []Myalgias []Arthralgias []Back pain
-Neurological: []Numbness of extremities []Weakness of 
extremities []Parasthesias []Dizziness/Lightheaded [x]Vertigo 
[]Confusion []Headache
-Psychiatric: [x]WNL []Depression []Suicidal Ideation
-Allergy/Immunological: [x] WNL []Seasonal Allergies

 
Past Medical History:
celiac disease
HTN
DJD
mild CHF per PCP's office, pt denies knowledge of this

 
Social History:
___
Family History:
Daughter with diabetes, father may have had a stroke
 
Physical Exam:
Physical Exam:
Appearance: NAD
Vitals: T: 97.4 BP: 173/99 HR: 72 RR: 16 O2: 98% 2L  liters O2
Eyes: EOMI, PERRL, conjunctiva clear, noninjected, anicteric, no 
exudate
ENT: Moist
Neck: No JVD, no LAD, no thyromegaly, no carotid bruits
Cardiovascular: RRR, nl S1/S2, no m/r/g
Respiratory: CTA bilaterally, comfortable, no wheezing, no 
ronchi, no rales
Gastrointestinal: soft, non-tender, non-distended, no 
hepatosplenomegaly, normal bowel sounds
Musculoskeletal/Extremities: no clubbing, no cyanosis, no joint 
swelling, no edema in the bilateral extremities
Neurological: Alert and oriented x3, fluent speech, sensation 
WNL, CNII-XII intact, ___ strength in upper and lower 
extremities, FTN intact
Integument: warm, no rash, no ulcer
Psychiatric: appropriate, pleasant

 
Pertinent Results:
___ 05:16PM   GLUCOSE-106* UREA N-26* CREAT-1.1 SODIUM-142 
POTASSIUM-4.2 CHLORIDE-103 TOTAL CO2-31 ANION GAP-12
___ 05:16PM   cTropnT-0.01
___ 05:16PM   CK-MB-5 cTropnT-0.01
___ 05:16PM   CALCIUM-10.3* PHOSPHATE-3.6 MAGNESIUM-2.4
___ 05:16PM   WBC-5.6 RBC-4.22 HGB-12.3 HCT-35.7* MCV-85 
MCH-29.1 MCHC-34.4 RDW-13.9
___ 05:16PM   PLT COUNT-269

CXR: Low lung volumes. No acute process.

EKG: NSR at 82bpm, LAD, first degree AVB, RBBB, TWI V3 new 
compared to ___/P: ___ with hypertension and celiac disease presents with 
dizziness, hypertensive urgency, and EKG changes.
.
1.  Hypertensive urgency:  When patient went to her ENT 
appointment, her BP was measured to be 220/110 so she was sent 
to the ED.  Recently her BP had been controlled per her PCP's 
office with readings no higher than 144/80.  Upon admission to 
the inpatient floor her BPs ranged from 150/82 to 174/107.  Her 
Atenolol was titrated upward to 100mg po daily.  HCTZ 12.5mg po 
daily was added to her regimen.  She was continued on her home 
dose of Avapro (which is at maximum dosage)  She tolerated the 
med changes well.  She was told not to get up too fast when she 
gets out of bed.  The side effects of the medication were 
explained to the patient.  On the day of discharge her BP was 
under much better control, inthe 140/80 range.  The patient will 
follow up with her PCP regarding her hypertension.
.
2. Vertigo: The etiology may be elevated blood pressure versus 
benign paroxysmal positional vertigo.  The patients dizziness 
did seem to come on is she moved her head to quickly to the 
left.  The patient did not have any further episodes of vertigo 
after admission.  She will be discharged with a prescription for 
meclizine as was instructed to use it as needed for vertigo.
.
3. EKG changes: The ED was concerned that the patient had some 
new EKG changes.  It is unclear how significant or new these 
changes are given her last EKG here was in ___. Conduction 
delay may be expected given her age. the patient did not have 
symptoms of chest pain, shortness of breath, N/V. Cardiac 
enzymes were trended X 2 and were negative.  She was monitored 
on telemetry and did not have any significant events.  The 
possibility of a stress test was discussed with patient.  She 
was not interested in cardiac cath if stress test shows 
reversible defect and prefered not to have a stress test.
.
4. Anxiety: patient was continued on her home regimen of remeron 
and lorazepam.
.
5. Mild diastolic CHF: Patient has this diagnosis as per the 
patient's PCP's office.  Patient is unaware of this diagnosis.  
2D Echo from ___ showed mild symmetric left ventricular 
hypertrophy with normal cavity size and regional/global systolic 
function (LVEF>55%).  Continued home dose of Lasix.
.
7. Proph: Heparin SC was given to prevent DVT.
.
8. Code: DNR/DNI, discussed with patient
.
9. ___:  Patient was cleared by ___ to go home without 
services.  The patient was instructed to follow up with her PCP 
later this week.
 
Medications on Admission:
-Avapro 300 mg Tablet Sig: One (1) Tablet PO once a day.  
-Furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
-Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for anxiety.  
-Atenolol 50 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*
-Brimonidine-Timolol 0.2-0.5 % Drops Sig: One (1) drop 
Ophthalmic left eye bid.  
-Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime): apply to left eye.  
-Mirtazapine 15 mg Tablet Sig: 0.5 Tablet PO once a day.  

 
Discharge Medications:
1. Avapro 300 mg Tablet Sig: One (1) Tablet PO once a day.  
2. Hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).
Disp:*30 Capsule(s)* Refills:*2*
3. Furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for anxiety.  
5. Atenolol 100 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*
6. Brimonidine-Timolol 0.2-0.5 % Drops Sig: One (1) drop 
Ophthalmic left eye bid.  
7. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime): apply to left eye.  
8. Mirtazapine 15 mg Tablet Sig: 0.5 Tablet PO once a day.  
9. Meclizine 25 mg Tablet Sig: One (1) Tablet PO twice a day as 
needed for dizziness.
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Hypertensive urgency
-Benign paroxysmal positional vertigo

 
Discharge Condition:
Good

 
Discharge Instructions:
-Follow up with your PCP ___ week.  PLease call 
___ on ___ and arrange this appointment.
-Take Atenolol at higher dose (100mg po daily)
-Take HCTZ as prescriber for better BP control
-Take Meclizine as needed for dizziness.
-Have PCP take your BP and adjust your medications as necessary.
-Take all other mediactions as prescribed.
-Return to ED if you have worsening dizziness (not controlled by 
medication), lightheadedness, headache, chest pain or any other 
worrisome signs/symptoms
 
Followup Instructions:
___